TPS70933 vendor model compatibility startup probe
.include TPS70933_TRANS.LIB
Vsource in 0 PWL(0 0 100u 12.6 10m 12.6)
Xldo in 0 en out nc TPS70933_TRANS
Cin in 0 200n
Cout out 0 27.975u
Rload out 0 165
.options method=gear maxord=2
.tran 1u 10m
.control
run
wrdata startup.dat v(in) v(out) i(Vsource)
quit
.endc
.end
